US06596719B1
19.8 g 5-(o-methoxyphenoxy)-2-thioxo-dihydro-pyrimidine-4,6-dione was dissolved in 100 ml DMSO and 10.28 g potassium carbonate was added. After 30 min 4.36 ml methyl iodide was added in portions within 10 min. Stirring was continued for 4 h followed by the addition of 250 ml water. The solution was acidified with 25% hydrochloric acid. The precipitated product was filtered off, washed with diethylether and dried in vacuo to give 12.9 g 5-(o-methoxyphenoxy)-2-methylsulfanyl-pyrimidine-4,6-diol. LC-MS: tR=3.01 min, [M−1]−=279.15.

reactant | 5-(o-methoxyphenoxy)-2-thioxo-dihydro-pyrimidine-4,6-dione | 19.8 g | COC1=C(OC2C(NC(NC2=O)=S)=O)C=CC=C1 | C11H10N2O4S
reactant | potassium carbonate | 10.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.36 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | water | 250 ml | O | H2O
product | 5-(o-methoxyphenoxy)-2-methylsulfanyl-pyrimidine-4,6-diol | 12.9 g | COC1=C(OC=2C(=NC(=NC2O)SC)O)C=CC=C1 | C12H12N2O4S
